US06329381B1
6-Amino-9-benzyl-8-bromo-2-(2-methoxyethylamino)purine
6-Amino-9-benzyl-2-(2-methoxyethyl)aminopurine (70 mg, 0.24 mmol) and bromine (0.5 ml) were dissolved in methylene chloride (50 ml). The solution was stirred at room temperature for 1 hour. Aqueous sodium thiosulfate was added to the reaction mixture. The organic layer was separated, dried on sodium sulfate and concentrated in vacuo to dryness. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (71 mg, yield 80%).

reactant | 6-Amino-9-benzyl-2-(2-methoxyethyl)aminopurine | 0.24 mmol, 70 mg | NC1=C2N=CN(C2=NC(=N1)NCCOC)CC1=CC=CC=C1 | C15H18N6O
reactant | bromine | 0.5 ml | BrBr | Br2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 6-Amino-9-benzyl-8-bromo-2-(2-methoxyethylamino)purine | 71 mg, yield 80% | NC1=C2N=C(N(C2=NC(=N1)NCCOC)CC1=CC=CC=C1)Br | C15H17BrN6O
